US04777299
2',4'-dihydroxyacetophenone
1,3-Dimethoxybenzene (8.00 g, 57.4 % mmol) was combined with acetic acid (500 ml) and 48% hydrobromic acid (300 ml). The solution was stirred and heated to reflux for five days. The reaction mixture was allowed to cool to room temperature then poured into water (500 ml). The aqueous solution was extracted with ether (500 ml, 2×) and concentrated in vacuo to a reddish brown oil. Chromatography by HPLC yielded a small amount of the title product uncontaminated by the resorcinol side product:

reactant | 1,3-Dimethoxybenzene | 8.00 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 300 ml | Br | BrH
solvent | water | 500 ml | O | H2O
product | 2',4'-dihydroxyacetophenone | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
